US08877944B2
4-Chloro-2-methylbenzoic acid (1.7 g, 10 mmol), palladium(II) acetate (112 mg, 0.5 mmol), iodobenzene diacetate (6.44 g, 20 mmol) and elemental iodine (5.08 g, 20 mmol) were dissolved in N,N-dimethylformamide (50 mL) and stirred overnight at 100° C. The reaction mixture was cooled to room temperature, diluted with methyl-tert-butylether and 2M hydrochloric acid and washed with 10% aqueous solution of sodium metabisulphite. Organic phase was extracted with 2M sodium hydroxide and the resulting basic aqueous phase was acidified with concentrated aqueoushydrochloric acid and re-extracted with methyl-tert-butylether. The solvent was removed under reduced pressure affording 4-chloro-2-iodo-6-methylbenzoic acid (2.8 g, 94% yield) without further purification. So obtained iodinated benzoic acid (2.8 g, 9.4 mmol) was dissolved in N,N-dimethylformamide (25 mL) and methyliodide (1.25 mL, 20 mmol) and potassium carbonate (2.8 g, 20 mmol) were added. The reaction mixture was stirred overnight at room temperature, diluted with methyl-tert-butylether and washed with water, 1M sodium hydroxide, water and brine. Solvent was removed under reduced pressure and the crude was purified by flash chromatography (n-hexane/diethyl ether 100:2) to give title compound (2.2 g, 75% yield).

reactant | 4-Chloro-2-methylbenzoic acid | 10 mmol, 1.7 g | ClC1=CC(=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | iodobenzene diacetate | 20 mmol, 6.44 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | iodine | 20 mmol, 5.08 g | II | I2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | methyl-tert-butylether | COC(C)(C)C | C5H12O
solvent | hydrochloric acid | 2M | Cl | ClH
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-chloro-2-iodo-6-methylbenzoic acid | 2.8 g, 94% yield | ClC1=CC(=C(C(=O)O)C(=C1)C)I | C8H6ClIO2
